US09290454B2
Sodium hydride (0.529 g, 22.03 mmol) was added to a stirred, 0° C. mixture of methyl 2-(4-fluorophenyl)-1,3-dioxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate (2.3 g, 7.34 mmol) in tetrahydrofuran (130 mL) and the mixture was stirred at 0° C. for 1 h. 2-[N,N-Bis(trifluoromethanesulfonyl)amino]-5-chloropyridine (5.77 g, 14.68 mmol) was added, and the resultant mixture was kept stirring at 0° C. for 1 h, then room temperature for 1 h. The reaction was checked with LCMS and starting material disappeared. The mixture was concentrated, and the residue was purified by column chromatography on silica gel, eluting with EtOAc/isohexane=25% to give methyl 2-(4-fluorophenyl)-1-oxo-3-(((trifluoromethyl)sulfonyl)oxy)-1,2-dihydroisoquinoline-6-carboxylate (2.76 g, 6.20 mmol) as a white solid.

reactant | Sodium hydride | 22.03 mmol, 0.529 g | [H-].[Na+]
reactant | methyl 2-(4-fluorophenyl)-1,3-dioxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | 7.34 mmol, 2.3 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1=O)C(=O)OC)=O | C17H12FNO4
reactant | 2-[N,N-Bis(trifluoromethanesulfonyl)amino]-5-chloropyridine | 14.68 mmol, 5.77 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | methyl 2-(4-fluorophenyl)-1-oxo-3-(((trifluoromethyl)sulfonyl)oxy)-1,2-dihydroisoquinoline-6-carboxylate | 6.20 mmol, 2.76 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1OS(=O)(=O)C(F)(F)F)C(=O)OC)=O | C18H11F4NO6S
